US05206240
1-[(3-Acetyl-4-hydroxyphenyl)methyl]-2-imidazolidone
To a suspension of sodium hydride (60% dispersion in mineral oil, 0.80 g, 20.0 mmol) in 15 mL dry dimethylformamide under argon, cooled in an ice-bath was added dropwise a solution of 2-imidazolidone (1.72 g, 20.0 mmol) in 5 mL dimethylformamide. The ice bath was removed, the mixture was stirred 30 minutes and a solution of 5'-chloromethyl-2'-hydroxyacetophenone (1.85 g, 10.0 mmol) in 5 mL dimethylformamide was added dropwise. The mixture was stirred four hours and the product was isolated in the same manner as in the previous example to give a solid. The solid was stirred under 20 mL n-butylchloride, filtered off, and dried in vacuo to give 1.01 g (43%) product as a white solid, mp 131°-133° C.

reactant | sodium hydride | 20.0 mmol, 0.80 g | [H-].[Na+]
reactant | 2-imidazolidone | 20.0 mmol, 1.72 g | N1C(NCC1)=O | C3H6N2O
reactant | 5'-chloromethyl-2'-hydroxyacetophenone | 10.0 mmol, 1.85 g | ClCC=1C=CC(=C(C1)C(C)=O)O | C9H9ClO2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-[(3-Acetyl-4-hydroxyphenyl)methyl]-2-imidazolidone | 1.01 g, 43% | C(C)(=O)C=1C=C(C=CC1O)CN1C(NCC1)=O | C12H14N2O3
